US05002953
2-[N-Methyl-N-(2-benzoxazolyl)amino]ethanol
A solution of 2-chlorobenzoxazole (15.4 g) in dry tetrahydrofuran (50 ml) was added dropwise to an ice cooled solution of 2-methylaminoethanol (15.0 g) in dry tetrahydrofuran (100 ml) with stirring and protection from atmospheric moisture. The mixture was stirred at 0° C. for 1 hour, allowed to warm to room temperature and stirred for a further 2 hours. The solvent was removed under reduced pressure, the product was dissolved in ethyl acetate (200 ml) and washed with brine (2×150 ml). The organic layer was dried (MgSO4), filtered and the solvent evaporated. Chromatography of the residue on silica-gel in dichloromethane gave the title compound (mp 62°-3° C.) which was used in Preparation 3 without further purification.

reactant | 2-chlorobenzoxazole | 15.4 g | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | 2-methylaminoethanol | 15.0 g | CNCCO | C3H9NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-[N-Methyl-N-(2-benzoxazolyl)amino]ethanol | CN(C=1OC2=C(N1)C=CC=C2)CCO | C10H12N2O2
